US08309720B2
4-Methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidine-5-carbonitrile
The resultant mixture was treated at 20-25° C. with a dilute HCl solution (37% HCl (4.80 g) diluted with water (15.00 g)), followed by EtOAc (9.02 g) and water (10.00 g). The resultant mixture was settled and the top organic layer was removed. The acidic aqueous layer was stirred at room temperature for 1 h to yield a mixture (which contained the hydrolysis product, N-(5-cyano-4-methyl-pyrimidin-2-yl)-N-[3-(1-methyl-piperidin-4-yl)-propyl]-acetamide). The aqueous layer was extracted one time with EtOAc (9.02 g). 2-Methyl-THF (8.60 g) was added and the pH of the biphasic mixture was adjusted to about pH=12 by addition of 6N NaOH (9.69 g). The aqueous layer was removed and the 2-Me-THF layer was diluted with 2-MeT-HF (8.60 g) and dried with MgSO4 (1.0 g). The pH of the dried 2-MeTHF solution was adjusted to about pH=1 by dropwise addition of 5-6N HCl/IPA, whereupon the HCl salt of the title compound precipitated. The solid was filtered, dissolved in EtOH (3.95 g) and the pH was adjusted to about pH=12 using 6N NaOH (4.85 g). The solid which precipitated during the addition was filtered, washed with water (10.00 g) and dried in a vacuum oven at 60-70° C. for 5 h to yield the title compound as a solid.

reactant | EtOAc | 9.02 g | CCOC(=O)C | C4H8O2
reactant | water | 10.00 g | O | H2O
reactant | N-(5-cyano-4-methyl-pyrimidin-2-yl)-N-[3-(1-methyl-piperidin-4-yl)-propyl]-acetamide | C(#N)C=1C(=NC(=NC1)N(C(C)=O)CCCC1CCN(CC1)C)C | C17H25N5O
solvent | HCl | 4.80 g | Cl | ClH
product | 4-Methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidine-5-carbonitrile | CC1=NC(=NC=C1C#N)NCCCC1CCN(CC1)C | C15H23N5
